US04481142
9-Chloro-7-(2-fluorophenyl)-N-methyl-5H-pyrimido[5,4-d][2]benzazepine-2-acetamide
Methylamine was bubbled into a solution of 2.6 g (6.34 mmol) of 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-acetic acid ethylester in 60 ml of ethanol for 10 min. After standing for 18 hr, the reaction was evaporated and the residue was partitioned between 75 ml of dichloromethane and 50 ml of water. The organic layer was dried and evaporated. The residue was crystallized and then recrystallized from dichloromethane/ether to give white rods, mp 175°-177° C.

reactant | Methylamine | CN | CH5N
reactant | 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-acetic acid ethylester | 6.34 mmol, 2.6 g | C(C)OC(CC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F)=O | C22H17ClFN3O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 9-Chloro-7-(2-fluorophenyl)-N-methyl-5H-pyrimido[5,4-d][2]benzazepine-2-acetamide | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)CC(=O)NC)C=C1 | C21H16ClFN4O
